US04820705
4-(2-Benzenesulphonamido-indan-5-yl)-4-oxobutyric acid
2.7 ml of 15N sodium hydroxide solution are added to 8.3 g (21.4 mmol) of methyl 4-[2-benzenesulphonamidoindan-5-yl]-4-oxobutyrate in 20 ml of ethanol and the mixture is boiled for 2 hours. The mixture is evaporated in vacuo, the residue is taken up in water, and the reaction product is precipitated with hydrochloric acid. It is crystallised from ethyl acetate/diisopropyl ether.

reactant | methyl 4-[2-benzenesulphonamidoindan-5-yl]-4-oxobutyrate | 21.4 mmol, 8.3 g | C1(=CC=CC=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(CCC(=O)OC)=O | C20H21NO5S
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-(2-Benzenesulphonamido-indan-5-yl)-4-oxobutyric acid | C1(=CC=CC=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(CCC(=O)O)=O | C19H19NO5S
